US08067445B2
Step 2: (2′-{[Acetyl-(2,2,2-trifluoro-ethyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: {6-methoxy-2′[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and acetyl chloride.

reactant | {6-methoxy-2′[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC(F)(F)F)=O | C20H19F6NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (2′-{[Acetyl-(2,2,2-trifluoro-ethyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC(F)(F)F)C(C)=O)=O | C22H21F6NO4
